* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4895 1 2 3 4 5 6
C1 Clamp COM {Cfp1}
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,COM), {Isink},1m),{Isrc},1m)
G2 0 Vcc_Int N051 0 1
G3 0 Vee_Int N053 0 1
R6 Vcc_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N049 Vcc_Int 1Meg Temp=-273.15
R9 N049 Vee_Int 1Meg Temp=-273.15
C2 N049 0 1
R25 Aol2 COM 1Meg Temp=-273.15
G7 COM Aol2 Clamp COM 1µ
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 N003 N019 {Rser} Temp=-273.15
R82 N053 4 1µ Temp=-273.15
A1 Inn1 Inp1 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R47 N051 3 1µ Temp=-273.15
R45 Vimon COM 1k Temp=-273.15
C34 COM 0 1n
G30 N051 N053 Vimon COM 1
C38 Aol2 COM {Cfp2}
Vimon N016 5 0
F1 COM Vimon Vimon 1m
DGP N045 Clamp DG
DGN Clamp N046 DG
B10 Vee_Int Satn I=1m*Max(Mn*(-V(Vimon,COM)) +OSn,OSn)
C19 Satn Vee_Int 1n
R21 Satn Vee_Int 1k Temp=-273.15
S1 Cap2R Cap2L OL COM OL
F2 COM OLp VGP 1m
A2 OLp OLn COM COM COM COM OL COM OR Ref=100u Vh=50u Trise=10n
R3 OLp COM 1k
F3 COM OLn VGN -1m
R33 OLn COM 1k
C20 OLp COM 10n
C21 OLn COM 10n
C22 OL COM 10p
VGN N046 N048 0
VGP N045 N047 0
G18 N020 Inp1 N041 N040 1m
R51 Inp1 N020 1k Temp=-273.15
C32 N038 N039 {C1a_PSRp}
G19 COM N039 VCC_Int COM {G1_PSRp}
R52 N039 COM 1 Temp=-273.15
R55 N038 N039 {R1a_PSRp} Temp=-273.15
R56 N038 COM {R2a_PSRp} Temp=-273.15
C33 N025 N024 {C1a_PSRn}
G20 COM N024 VEE_Int COM {G1_PSRn}
R57 N024 COM 1 Temp=-273.15
R58 N025 N024 {R1a_PSRn} Temp=-273.15
R59 N025 COM {R2a_PSRn} Temp=-273.15
C35 N027 N026 {C1b_PSRn}
R60 N026 COM 1 Temp=-273.15
R61 N027 N026 {R1b_PSRn} Temp=-273.15
R63 N027 COM {R2b_PSRn} Temp=-273.15
G21 COM N028 N027 COM {G2_PSRn}
G23 COM N026 N025 COM 1
R68 N037 N036 {R1b_PSRp} Temp=-273.15
R69 N036 COM {R2b_PSRp} Temp=-273.15
G26 COM N035 N036 COM {G2_PSRp}
C37 N036 N037 {C1b_PSRp}
G27 COM N037 N038 COM 1
R70 N037 COM 1 Temp=-273.15
G29 COM I_np N056 COM 1
RI_np I_np COM 1 Temp=-273.15
R76 N009 N012 1k Temp=-273.15
B17 N012 N009 I=1m*{Vos+Drift* (Temp-27)}
G32 N010 N011 N002 COM 1m
R77 N011 N010 1k Temp=-273.15
R79 N010 N009 1k Temp=-273.15
G33 N009 N010 E_n COM 1m
C39 N002 N001 {C1a_CMR}
G34 COM N001 N003 COM {G1_CMR}
R80 N002 N001 {R1a_CMR} Temp=-273.15
R81 N002 COM {R2a_CMR} Temp=-273.15
R83 N001 COM 1 Temp=-273.15
G35 COM IVR N003 COM 1m
G36 COM Inn1 N044 COM 1k
R84 COM IVR 1k Temp=-273.15
R85 COM Inn1 1m Temp=-273.15
C40 Inn1 COM 1.59n
C41 IVR COM 1.59f
Ibn N044 COM {Ib-Ios}
G37 N003 COM I_np COM 1
G38 N044 COM I_nn COM 1
R2 N044 N043 {Rser} Temp=-273.15
Cinp COM N003 {Ccm}
Cinn N044 COM {Ccm}
Rinn N044 COM {Rcm} Temp=-273.15
Rinp COM N003 {Rcm} Temp=-273.15
G28 COM N020 N011 COM 1k
R72 COM N020 1m Temp=-273.15
C42 N020 COM 1.59n
C43 Aol1 COM 1.59e-18
G15 COM N047 GRpi COM 1k
G16 COM N048 GRni COM 1k
R11 N047 COM 1m Temp=-273.15
R12 N048 COM 1m Temp=-273.15
R37 GRpi COM 1k Temp=-273.15
R44 GRni COM 1k Temp=-273.15
C6 GRni COM 10p
C7 GRpi COM 10p
S2 3 5 5 3 ESDO
S3 5 4 4 5 ESDO
DOP Vsatp N016 DO
DON N016 Vsatn DO
G5 COM Vsatp Satp COM 1k
R92 Vsatp COM 1m
G6 COM Vsatn Satn COM 1k
R93 Vsatn COM 1m
C10 Vimon COM 1.59f
S4 3 N012 N012 3 ESDI
S5 3 Inn1 Inn1 3 ESDI
S6 N012 4 4 N012 ESDI
S7 Inn1 4 4 Inn1 ESDI
C9 N016 Vsatp 1f
C16 N016 Vsatn 1f
C27 Clamp N047 1f
C44 Clamp N048 1f
Cdiff N003 N044 {Cdiff}
C17 Vsatp COM 1n
C23 Vsatn COM 1n
E1 COM 0 N049 0 1
R10 COM 0 1Meg Temp=-273.15
C8 I_np COM 1.59p
C51 N040 COM 1.59p
C52 N041 COM 1.59p
R16 N019 1 1m Temp=-273.15
R17 N043 2 1m Temp=-273.15
B3 COM CMpi I=1m*(V(3,COM)+{Vcm_max}) Cpar=1n
G17 COM CMp CMpi COM 1k
R53 COM CMp 1m Temp=-273.15
B8 COM CMni I=1m*(V(4,COM)+{Vcm_min}) Cpar=1n
G22 COM CMn CMni COM 1k
R54 COM CMn 1m Temp=-273.15
R62 CMpi COM 1k Temp=-273.15
R88 CMni COM 1k Temp=-273.15
DIP CMp IVR DI
DIN IVR CMn DI
C54 IVR CMn 1f
C48 IVR CMp 1f
G14 COM N012 IVR COM 1k
R14 COM N012 1m Temp=-273.15
C49 N012 COM 1.59n
Rdiff N003 N044 {Rdiff} Temp=-273.15
Rx N016 N015 {Rx_Zo} Temp=-273.15
Rdummy N016 COM {Rdummy_Zo} Temp=-273.15
G4 COM Cap2L N023 N016 {G1_Zo}
R4 Cap2L COM 1 Temp=-273.15
R5 Cap2L Cap2R {R1a_Zo} Temp=-273.15
R13 Cap2R COM {R2a_Zo} Temp=-273.15
G8 COM N004 Cap2R COM {G2_Zo}
C3 Cap2R Cap2L {C1a_Zo}
B11 COM N015 I=Uplim(Dnlim({G5_Zo}* V(ZoF,COM), {Izon}, 25m), {Izop}, 25m)
R23 N006 COM 1 Temp=-273.15
R24 N008 ZoF {R1e_Zo} Temp=-273.15
R26 ZoF COM {R2e_Zo} Temp=-273.15
C4 ZoF N008 {C1e_Zo}
R27 N004 COM 1 Temp=-273.15
R28 N004 N005 {R1b_Zo} Temp=-273.15
R29 N005 COM {R2b_Zo} Temp=-273.15
G25 COM N006 N005 COM {G3_Zo}
C5 N005 N004 {C1b_Zo}
R30 N006 N007 {R2d_Zo} Temp=-273.15
R31 N007 N021 {R1d_Zo} Temp=-273.15
C18 COM N021 {C1d_Zo}
Gb1 COM N008 N007 COM 1
R32 N008 COM 1 Temp=-273.15
R43 N035 N034 {R1b_PSRp} Temp=-273.15
R46 N034 COM {R2b_PSRp} Temp=-273.15
G11 COM N033 N034 COM {G2_PSRp}
C28 N034 N035 {C1b_PSRp}
R48 N033 COM 1 Temp=-273.15
R86 N033 N032 {R1c_PSRp} Temp=-273.15
R87 N032 COM {R2c_PSRp} Temp=-273.15
G12 COM N041 N032 COM {G3_PSRp}
C29 N032 N033 {C1c_PSRp}
R34 N035 COM 1 Temp=-273.15
R35 N041 COM 1 Temp=-273.15
R89 N028 COM 1 Temp=-273.15
C30 N029 N028 {C1b_PSRn}
R90 N029 N028 {R1b_PSRn} Temp=-273.15
R91 N029 COM {R2b_PSRn} Temp=-273.15
G13 COM N030 N029 COM {G2_PSRn}
R100 N030 COM 1 Temp=-273.15
C31 N031 N030 {C1c_PSRn}
R101 N031 N030 {R1c_PSRn} Temp=-273.15
R102 N031 COM {R2c_PSRn} Temp=-273.15
G39 COM N040 N031 COM {G3_PSRn}
R103 N040 COM 1 Temp=-273.15
A6 COM COM COM COM COM COM N054 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAe}/(freq**{Me})
R36 N054 COM 100k Temp=-273.15
A7 COM N054 COM COM COM COM E_n COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBe}
R39 E_n COM 100k Temp=-273.15
A3 COM COM COM COM COM COM N055 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAi}/(freq**{Mi})
R40 N055 COM 100k Temp=-273.15
A8 COM N055 COM COM COM COM N056 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBi}
R41 N056 COM 100k Temp=-273.15
G1 COM I_nn N058 COM 1
RI_nn I_nn COM 1 Temp=-273.15
C24 I_nn COM 1.59p
A4 COM COM COM COM COM COM N057 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAi}/(freq**{Mi})
R42 N057 COM 100k Temp=-273.15
A5 COM N057 COM COM COM COM N058 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBi}
R64 N058 COM 100k Temp=-273.15
B2 Satp Vcc_Int I=1m*Max(Mp*(V(Vimon,COM)) +OSp,OSp)
C11 Satp Vcc_Int 1n
R18 Satp Vcc_Int 1k Temp=-273.15
G9 COM Vs 3 4 1m
R19 Vs COM 1k Temp=-273.15
A9 Vs COM COM COM COM COM VminGD COM SCHMITT Vt={Vsmin-50m} Vh=10m Trise=5n
A10 Vs COM COM COM COM VmaxGD COM COM SCHMITT Vt={Vsmax+50m} Vh=10m Trise=5n
A11 VminGD COM COM ENgd VmaxGD COM EN COM AND Trise=5n
R20 EN COM 1G Temp=-273.15
R65 VmaxGD COM 1G Temp=-273.15
R66 COM VminGD 1G Temp=-273.15
A12 6 3 COM COM COM COM ENgd COM SCHMITT Vt={-ENVt} Vh={ENVh} Trise={ENTon*2} Tfall={ENToff*2}
S8 COM Clamp EN COM ENA
S9 COM Aol1 EN COM ENA
S10 COM N015 EN COM ENZ
Biq N051 N053 I=IF(V(EN,COM)>0.5, {Iq_on},{Iq_off})
I2 GRni COM 198m
I3 COM GRpi 198m
Gb2 COM N013 Aol2 COM 1
R71 N013 N014 {R1f_Aol} Temp=-273.15
R73 N014 COM {R2f_Aol} Temp=-273.15
G24 COM N022 N014 COM {1u*G6_Aol}
C25 N014 N013 {C1f_Aol}
R74 N013 COM 1 Temp=-273.15
R75 N022 COM 1Meg Temp=-273.15
R78 N023 COM 1Meg Temp=-273.15
G31 COM N023 N022 COM 1µ
C26 N022 COM {Cfp3}
C36 N023 COM {Cfp4}
BIbp N003 COM I={Ib+Ibd* (Temp-27)}
Bipd 6 COM I=IF(V(EN,COM)>0.5, {Ipd_on},{Ipd_off})
D2 6 Vcc_int PD
R22 Vcc_int 6 1G
.param Vos=51.28u Drift=15n
.param Ib=-11u Ios=-9.4n Ibd=1.2n
.param Vcm_min=0.1 Vcm_max=-0.9
.param Vsmin=3 Vsmax=10
.param Iscp=111m Iscn=-116m
.param Iq_on=3m Iq_off=0.1m
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param ENVt=1.25 ENVh=0.75
.param ENTon=250n ENToff=6u
.param Ipd_on=-1.1u Ipd_off=-40u
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless )
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=700m Vh=-350m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param C1b_PSRn = {1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn/ (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn = {1/actual2_PSRn}
.param C1c_PSRn = {1 / (2 * pi * R1c_PSRn * fz3_PSRn)}
.param R2c_PSRn = {R1c_PSRn/ ((2 * pi * fp3_PSRn * C1c_PSRn
+* R1c_PSRn) - 1)}
.param actual3_PSRn = {R2c_PSRn/ (R1c_PSRn + R2c_PSRn)}
.param G3_PSRn = {1/actual3_PSRn}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param C1b_PSRp={1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp= {1/actual2_PSRp}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=623
.param Zo_max={Zo_dc}
.param R1a_Zo=10k
.param fz1_Zo=8k
.param fp1_Zo=41k
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1b_Zo=10k
.param fz2_Zo=15Meg
.param fp2_Zo=20Meg
.param C1b_Zo = {1 / (2 * pi * R1b_Zo * fz2_Zo)}
.param R2b_Zo = {R1b_Zo/ ((2 * pi * fp2_Zo * C1b_Zo
+* R1b_Zo) - 1)}
.param actual3_Zo = {R2b_Zo / (R1b_Zo + R2b_Zo)}
.param G3_Zo = {1/actual3_Zo}
.param R1e_Zo=10k
.param fz5_Zo=700Meg
.param fp5_Zo=100G
.param C1e_Zo = {1 / (2 * pi * R1e_Zo * fz5_Zo)}
.param R2e_Zo = {R1e_Zo/ ((2 * pi * fp5_Zo * C1e_Zo
+* R1e_Zo) - 1)}
.param actual5_Zo = {R2e_Zo / (R1e_Zo + R2e_Zo)}
.param G5_Zo = {1/actual5_Zo}
.param R1d_Zo=10k
.param fp4_Zo=140Meg
.param fz4_Zo=900Meg
.param C1d_Zo = {1 / (fz4_Zo * R1d_Zo * 2 * pi)}
.param R2d_Zo = {(1 / (fp4_Zo * C1d_Zo * 2 * pi))
+- R1d_Zo}
.param Aol_PB=114.26
.param SRp=2.53k SRn={-SRp}
.param fp1=8k fp2=15Meg fp3=900Meg fp4=2G
.param Rser=1m
.param Ccm=3p Rcm=10Meg
.param Cdiff=11p Rdiff=10k
.param Rej_dc_CMR=109
.param R1a_CMR=1Meg
.param fz1_CMR=8k
.param fp1_CMR=200Meg
.param R1c_PSRp=1Meg
.param fz3_PSRp=9Meg
.param fp3_PSRp=50Meg
.param C1c_PSRp={1 / (2 * pi * R1c_PSRp * fz3_PSRp)}
.param R2c_PSRp = {R1c_PSRp/ ((2 * pi * fp3_PSRp * C1c_PSRp
+* R1c_PSRp) - 1)}
.param actual3_PSRp = {R2c_PSRp / (R1c_PSRp + R2c_PSRp)}
.param G3_PSRp= {1/actual3_PSRp}
.param Rej_dc_PSRp=136
.param R1a_PSRp=1Meg
.param fz1_PSRp=6k
.param fp1_PSRp=100Meg
.param R1b_PSRp=1Meg
.param fz2_PSRp={fz1_PSRp}
.param fp2_PSRp=20k
.param Rej_dc_PSRn=135
.param R1a_PSRn=1Meg
.param fz1_PSRn=6k
.param fp1_PSRn=100Meg
.param R1b_PSRn=1Meg
.param fz2_PSRn={fz1_PSRn}
.param fp2_PSRn=19k
.param R1c_PSRn=1Meg
.param fz3_PSRn=15Meg
.param fp3_PSRn=50Meg
.param BBe=1n fCe=26 Me=0.5 fAe={BBe*(fCe**Me)}
.param BBi=1.55p fCi=1.05k Mi=0.48 fAi={BBi*(fCi**Mi)}
.param Mp=4.45 OSp=20m
.param Mn=2.76 OSn=20m
.param R1f_Aol=10k
.param fz6_Aol=34Meg
.param fp6_Aol=10G
.param C1f_Aol = {1 / (2 * pi * R1f_Aol * fz6_Aol)}
.param R2f_Aol = {R1f_Aol/ ((2 * pi * fp6_Aol * C1f_Aol
+* R1f_Aol) - 1)}
.param actual6_Aol = {R2f_Aol / (R1f_Aol + R2f_Aol)}
.param G6_Aol = {1/actual6_Aol}
.model PD D(Ron=0.5 Epsilon=0.1 Noiseless)
.ends ADA4895
